US03960873
A mixture of 2.46 g. of 1-(p-chlorophenylsulfinyl)-3-chloropropane, 0.9 g. of piperidine, 0.53 g. of sodium carbonate in 30 ml. of dimethylformamide is heated for 3 hours at a temperature of 80° - 87°C. After the reaction mixture has been cooled, a mixture of benzene and water is added thereto. The aqueous layer is separated and extracted with benzene. The organic layers are combined, washed with water, dried over sodium sulfate and evaporated under reduced pressure. The oily residue is dissolved in ether and treated with ethanolic hydrogen chloride under cooling. The precipitate is collected by filtration and dried to give 1-[γ-(p-chlorophenylsulfinyl)-propyl]piperidine hydrochloride, m.p.: 170° - 174°C. Recrystallization from benzene gives white crystals, m.p.: 176° - 177°C.

reactant | 1-(p-chlorophenylsulfinyl)-3-chloropropane | ClC1=CC=C(C=C1)S(=O)CCCCl | C9H10Cl2OS
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-[γ-(p-chlorophenylsulfinyl)-propyl]piperidine hydrochloride | Cl.ClC1=CC=C(C=C1)S(=O)CCCN1CCCCC1 | InChI=1S/C14H20ClNOS.ClH/c15-13-5-7-14(8-6-13)18(17)12-4-11-16-9-2-1-3-10-16;/h5-8H,1-4,9-12H2;1H
